US04061587
1.8 G. of p-n-octylcinnamic acid, prepared in a manner analogous to that described in Example 1, are boiled in 25 ml. of thionyl chloride for 30 minutes. The excess thionyl chloride is removed by distillation. The residue is taken up twice in absolute toluene, concentrated on a rotary evaporator and dried. There is thus obtained crude p-n-octylcinnamic acid chloride.

reactant | p-n-octylcinnamic acid | C(CCCCCCC)C1=CC=C(C=CC(=O)O)C=C1 | C17H24O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | p-n-octylcinnamic acid chloride | C(CCCCCCC)C1=CC=C(C=CC(=O)Cl)C=C1 | C17H23ClO
